US07342127B2
4-(2,6-Dibromo-3-methyl-4-nitrophenoxy)-2-isopropylanisole of Part 8B (560-mg, 1.22 mmol) was dissolved in CH2Cl2 (10 mL) and cooled to 0° C. Ice-cold BF3-SMe2 (5 mL, 47.5 mmol) was added and the temperature was allowed to reach room temperature. After 16 hours stirring at room temperature, the reaction mixture was quenched by ice water and stirred for 30 minutes. A phase separator (IST) was used to separate the two phases and the aqueous phase was extracted by CHCl3. The collected organic phases were washed by brine and concentrated in vacuo. The residue was purified on column (MPLC, silica gel, gradient elution: n-heptane/EtOAc from 1:0 to 9:1) to give 250 mg (46%) of 4-(2,6-dibromo-3-methyl-4-nitrophenoxy)-2-isopropylphenol as light yellow syrup.

reactant | 4-(2,6-Dibromo-3-methyl-4-nitrophenoxy)-2-isopropylanisole | BrC1=C(OC2=CC(=C(C=C2)OC)C(C)C)C(=CC(=C1C)[N+](=O)[O-])Br | C17H17Br2NO4
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,6-dibromo-3-methyl-4-nitrophenoxy)-2-isopropylphenol | 250 mg, 46% | BrC1=C(OC2=CC(=C(C=C2)O)C(C)C)C(=CC(=C1C)[N+](=O)[O-])Br | C16H15Br2NO4
